US05830902
In an atmosphere of argon, thionyl chloride (0.65 ml, 8.86 mmol) was added at 0° C. to a mixture of 10-ethyl-3-hydroxymethylphenothiazine (1.14 g, 4.43 mmol), DMF (0.1 ml) and methylene chloride (12 ml), and the mixture was stirred for 1 hour and then at room temperature for 1 hour. The reaction mixture was concentrated under a reduced pressure, and chloroform and a saturated sodium bicarbonate aqueous solution (each 20 ml) were added to the residue in that order. The reaction product was extracted with ethyl acetate, and the extract was washed with saturated sodium chloride aqueous solution. The extract was dried over anhydrous magnesium sulfate, and then concentrated under a reduced pressure to give 3-chloromethyl-10-ethylphenothiazine (1.17 g, 4.24 mmol, 96%) as brown oil.

reactant | thionyl chloride | 8.86 mmol, 0.65 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 10-ethyl-3-hydroxymethylphenothiazine | 4.43 mmol, 1.14 g | C(C)N1C2=CC=CC=C2SC=2C=C(C=CC12)CO | C15H15NOS
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 3-chloromethyl-10-ethylphenothiazine | 4.24 mmol, 1.17 g, 96% | ClCC=1C=CC=2N(C3=CC=CC=C3SC2C1)CC | C15H14ClNS
